US06369078B1
1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-hexyl-1,2-dihydropyridine
To a stirred solution of 1-(tert-Butoxycarbonyl)-4-chloro-2-n-hexyl-1,2-dihydropyridine (4.84 g, 16.14 mmol) in 180 ml of THF at −42° C. was added n-butyllithium (19.4 mL, 19.37 mmol) dropwise via syringe. After the mixture had stirred at −42° C. for 1 h, iodomethane (3.0 mL, 48.42 mmol) was added and stirring was continued at −42° C. for 1 h and then at room temperature for 1 h. Water (50 mL) and ether (100 mL) were added, the layers were separated, the aqueous phase was extracted with ether (2×15 mL), and the combined organic extracts were washed with brine. The organic phase was dried over K2CO3 filtered through silica gel/Celite, and concentrated in vacuo to give the crude product. Purification by column chromatography with 5% EtOAc in hexanes afforded 4.89 g (73.4%) of the product as an orange oil that was homogeneous by TLC analysis. 1H NMR (250 MHz) δ5.65-5.58 (d, 1 H), 5.32 (br s, 1 H), 4.84-4.72 (q, 1 H), 2.13 (s, 3 H), 1.75-1.21 (m, 19 H), 0.91-0.85 (t, 3 H).

reactant | 1-(tert-Butoxycarbonyl)-4-chloro-2-n-hexyl-1,2-dihydropyridine | 16.14 mmol, 4.84 g | C(C)(C)(C)OC(=O)N1C(C=C(C=C1)Cl)CCCCCC | C16H26ClNO2
reactant | n-butyllithium | 19.37 mmol, 19.4 mL | C(CCC)[Li]
reactant | iodomethane | 48.42 mmol, 3.0 mL | IC | CH3I
reactant | Water | 50 mL | O | H2O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-hexyl-1,2-dihydropyridine | 4.89 g, 73.4% | C(C)(C)(C)OC(=O)N1C(C=C(C=C1C)Cl)CCCCCC | C17H28ClNO2
